US05434186
Preparation of 2-(2-Carboxyethyl)-3-[6-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]hexyl]benzenehexanoic Acid
Using the procedure of example 126, 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one was converted into the title compound by alkylation with 2-(3-methoxy-3-oxopropyl)-3-[6-[(methylsulfonyl)oxy]hexyl]benzenehexanoic acid methyl ester from the preceding example, followed by saponification, in 16.8% overall yield. The product was a colorless solid, mp 109°-110° C., recrystallized from acetonitrile.

reactant | 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one | OC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C12H14O3
reactant | 2-(3-methoxy-3-oxopropyl)-3-[6-[(methylsulfonyl)oxy]hexyl]benzenehexanoic acid methyl ester | COC(CCCCCC1=C(C(=CC=C1)CCCCCCOS(=O)(=O)C)CCC(=O)OC)=O | C24H38O7S
product | 2-(2-Carboxyethyl)-3-[6-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]hexyl]benzenehexanoic Acid | C(=O)(O)CCC1=C(C=CC=C1CCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC)CCCCCC(=O)O | C33H44O7
